US06433196B1
To a suspension of anhydrous aluminum chloride (16.2 g) dispersed in 1,2-dichlorobenzene (150 ml) was added fluorobenzene (13 g), and thereto was added dropwise 2,4-dimethylbenzoyl chloride (17.0 g) at 0-20° C. The mixture was stirred at 10-30° C. for 1 hr and heated to 80° C. The mixture was stirred for 1 hr, cooled again and poured into 6N hydrochloric acid. The reaction mixture was diluted with a great excess toluene and partitioned. The obtained organic layer was washed successively with 5% aqueous sodium hydroxide solution and water, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography using cyclohexane-ethyl acetate as eluent to give nearly pure 1,3-dimethyl-4-(4′-fluorobenzoyl)benzene (19.4 g, 85%) as pale-yellow oil. The spectrum data of this oil were the same as those confirmed in Example 7.

reactant | aluminum chloride | 16.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | fluorobenzene | 13 g | FC1=CC=CC=C1 | C6H5F
reactant | 2,4-dimethylbenzoyl chloride | 17.0 g | CC1=C(C(=O)Cl)C=CC(=C1)C | C9H9ClO
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | 1,2-dichlorobenzene | 150 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,3-dimethyl-4-(4′-fluorobenzoyl)benzene | 19.4 g, 85% | CC1=CC(=C(C=C1)C(C1=CC=C(C=C1)F)=O)C | C15H13FO
